US09102614B2
Step 2: Preparation of ethyl 2-(1-(4-chlorophenyl)-3-methyl-6-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate:
To a solution of ethyl 2-(1-(4-chlorophenyl)-3-methyl-6-(triisopropylsilyloxy)naphthalen-2-yl)-2-oxoacetate (5.11 g, 9.7 mmol) in THF (25 mL) cooled to 0° C. was added TBAF (1 M in THF, 10.7 mL, 10.7 mmol). After 15 min, a solution of N-Phenyl-bis(trifluoromethane-sulfonimide) (5.2 g, 14.6 mmol) in THF (20 mL) was added to produce a clear yellow solution. Solid potassium carbonate (2.7 g, 19.4 mmol) was added and the cold bath removed. After 4 h at room temperature, the reaction was diluted with EtOAc and 1 M NaOH (100 mL each) and shaken vigorously for 5 min. The layers were separated and the aqueous extracted with EtOAc. The combined organics were washed with brine, dried over anhydrous MgSO4 and concentrated in vacuo. The resulting residue was purified by Yamazen column chromatography (0-20% EtOAc/Hex) to produce 3.12 g (64%) as an amorphous pale yellow solid. 1H-NMR: 400 MHz, (CDCl3) δ: 7.80 (s, 1H); 7.76 (d, J=2.4 Hz, 1H); 7.67 (d, J=9.6 Hz, 1H); 7.48 (br d, J=8.4 Hz, 2H); 7.30 (dd, J=9.6, 2.4 Hz, 1H); 7.25 (br d, J=8.4 Hz, 2H); 3.95 (q, J=7.2 Hz, 2H); 2.53 (s, 3H); 1.15 (t, J=7.2 Hz, 3H).

reactant | ethyl 2-(1-(4-chlorophenyl)-3-methyl-6-(triisopropylsilyloxy)naphthalen-2-yl)-2-oxoacetate | 9.7 mmol, 5.11 g | ClC1=CC=C(C=C1)C1=C(C(=CC2=CC(=CC=C12)O[Si](C(C)C)(C(C)C)C(C)C)C)C(C(=O)OCC)=O | C30H37ClO4Si
reactant | TBAF | 10.7 mmol, 1 M, 10.7 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | N-Phenyl-bis(trifluoromethane-sulfonimide) | 14.6 mmol, 5.2 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | potassium carbonate | 19.4 mmol, 2.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | ethyl 2-(1-(4-chlorophenyl)-3-methyl-6-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate | ClC1=CC=C(C=C1)C1=C(C(=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F)C)C(C(=O)OCC)=O | C22H16ClF3O6S
